US07560558B2
(4,5-Dimethylfuran-2-yl)-(6-methoxypyridin-3-yl)-methanol (1.24 g) was dissolved in chloroform (30 ml) to prepare a solution. Manganese dioxide (4.63 g) was added to the solution, and the mixture was stirred at room temperature overnight. Manganese dioxide (4.63 g) was then added to the reaction solution, and the mixture was stirred for 6 hr. The reaction solution was filtered through Celite, and the solvent was removed from the filtrate by distillation under the reduced pressure to give (4,5-dimethylfuran-2-yl)-(6-methoxypyridin-3-yl)-methanone (655 mg, yield 53%).

reactant | (4,5-Dimethylfuran-2-yl)-(6-methoxypyridin-3-yl)-methanol | 1.24 g | CC=1C=C(OC1C)C(O)C=1C=NC(=CC1)OC | C13H15NO3
solvent | chloroform | 30 ml | C(Cl)(Cl)Cl | CHCl3
catalyst | Manganese dioxide | 4.63 g | [O-2].[O-2].[Mn+4]
catalyst | Manganese dioxide | 4.63 g | [O-2].[O-2].[Mn+4]
product | (4,5-dimethylfuran-2-yl)-(6-methoxypyridin-3-yl)-methanone | 655 mg, yield 53% | CC=1C=C(OC1C)C(=O)C=1C=NC(=CC1)OC | C13H13NO3
